US07259183B2
Preparation of 3-chloro-4-trifluoromethyl-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide
The title compound was synthesized in analogy to N-[2-(3,4-dichloro-phenyl)-ethyl]-4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzamide (described in example S98) using 250 mg of 3-chloro-4-trifluoromethyl-benzoic acid (1.11 mmol) and 221 mg (1.17 mmol) of 2-(3-trifluoromethylphenyl)-ethylamine. The isolated residue was purified by flash column chromatography to give 360 mg of 3-chloro-4-trifluoromethyl-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide (82%) as a yellow solid.

reactant | N-[2-(3,4-dichloro-phenyl)-ethyl]-4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzamide | ClC=1C=C(C=CC1Cl)CCNC(C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)=O | C18H13Cl2F6NO2
reactant | 3-chloro-4-trifluoromethyl-benzoic acid | 1.11 mmol, 250 mg | ClC=1C=C(C(=O)O)C=CC1C(F)(F)F | C8H4ClF3O2
reactant | 2-(3-trifluoromethylphenyl)-ethylamine | 1.17 mmol, 221 mg | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
product | 3-chloro-4-trifluoromethyl-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide | 360 mg, 82% | ClC=1C=C(C(=O)NCCC2=CC(=CC=C2)C(F)(F)F)C=CC1C(F)(F)F | C17H12ClF6NO
